US05061705
130 g (1.7 moles) of thioacetic acid, 50 g (0.3 mole) of methyl 4-cyanobenzoate and 12 ml of glacial acetic acid were stirred for 2 hours at 80° C. The mixture was allowed to cool, 200 ml of 1:1 isopropanol/water was added, the mixture was stirred for a short time and the crystals formed were filtered off under suction. 45.5 g of 4-carbomethoxybenzothiamide of melting point 188°-190° C. were obtained in this manner.

reactant | thioacetic acid | 1.7 moles, 130 g | C(C)(=S)O | C2H4OS
reactant | methyl 4-cyanobenzoate | 0.3 mole, 50 g | C(#N)C1=CC=C(C(=O)OC)C=C1 | C9H7NO2
reactant | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol water | 200 ml | C(C)(C)O.O
product | 4-carbomethoxybenzothiamide | 45.5 g | C(=O)(OC)C1=CC=C(C(N)=S)C=C1 | C9H9NO2S
